US07863303B2
A solution of 5-[(methylthio)methyl]-2-(trifluoromethyl)-1,3-thiazole (140 mg, 0.62 mmol) and cyanamide (35 mg, 0.83 mmol) in 6 mL of dichloromethane was cooled to 0° C. and treated with iodobenzene diacetate (860 mg, 2.59 mmol). A clear yellow solution was obtained. The mixture was allowed to warm to room temperature over an hour and then the solvent removed under reduced pressure and the residue further purified by flash column chromatography on silica gel using a 50% mixture of acetone and petroleum ether as the eluant. The solvents were removed under reduced pressure to yield 130 mg (83%) of (1E)-methyl{[2-(trifluoromethyl)-1,3-thiazol-5-yl]methyl}-λ4-sulfanylidenecyanamide as a pale yellow syrup: 1H NMR (CDCl3) δ 8.00 (s, 1H), 4.60 (s, 2H), 2.85 (s, 3H); LCMS (ESI) m/z 254 (M+H).

reactant | 5-[(methylthio)methyl]-2-(trifluoromethyl)-1,3-thiazole | 0.62 mmol, 140 mg | CSCC1=CN=C(S1)C(F)(F)F | C6H6F3NS2
reactant | cyanamide | 0.83 mmol, 35 mg | N#CN | CH2N2
reactant | iodobenzene diacetate | 2.59 mmol, 860 mg | C(C)(=O)O.C(C)(=O)O.IC1=CC=CC=C1
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
product | (1E)-methyl{[2-(trifluoromethyl)-1,3-thiazol-5-yl]methyl}-λ4-sulfanylidenecyanamide | 130 mg, 83% | C/S(=N\C#N)/CC1=CN=C(S1)C(F)(F)F | C7H6F3N3S2
